US06759509B1
N,N-Bis-Carbobenzyloxyethylenediamine
Benzyl chloroformate (40 mL, 280 mmol) was added dropwise over 45 min to a vigorously stirred solution of ethylenediamine (9.4 mL, 0.5 equiv) in 1M NaOH (310 mL, 1 equiv) at 0° C. A heavy white precipitate formed and the mixture was stirred for 4 h following addition. The resulting solid product was collected by filtration, washed with water and then hexane, and then air-dried overnight (46.17 g, 100%). 1H-NMR (CDCl3) δ 3.32 (s, 4H), 5.10 (s, 4H), 5.23 (br, 2H), 7.35 (s, 10HS MS (ESI) 329.3 (MH)+.

reactant | Benzyl chloroformate | 280 mmol, 40 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ethylenediamine | 9.4 mL, 0.5 equiv | C(CN)N | C2H8N2
reactant | NaOH | 1M, 310 mL, 1 equiv | [OH-].[Na+]
product | N,N-Bis-Carbobenzyloxyethylenediamine | C(=O)(OCC1=CC=CC=C1)N(CCN)C(=O)OCC1=CC=CC=C1 | C18H20N2O4
